US07858619B2
19: 2-[4-(4-Fluorophenoxy)benzenesulfonyl]-5-(2-piperidin-1-ylethoxy)-1,2,3,4-tetra-hydroisoquinoline-1-carboxylic acid hydroxyamide;
8.16 μl (85.6 μmol) of ethyl chloroformate are added to a solution of 38 mg (68.5 μmol) of 2-[4-(4-fluorophenoxy)benzenesulfonyl]-5-(2-piperidin-1-ylethoxy)-1,2,3,4-tetra-hydroisoquinoline-1-carboxylic acid and 16.6 μl (151 μmol) of N-methylmorpholine in 2 ml of DMF at −20° C., and the mixture is stirred at −20° C. for 30 minutes. Then 37.2 μl (274 μmol) of O-trimethylsilylhydroxylamine are added, and the solution is warmed slowly to room temperature. After standing overnight, it is concentrated in vacuo and the residue is purified by chromatography on silica gel, allowing the title compound to be isolated as a colorless solid. Yield 46%.

reactant | ethyl chloroformate | 85.6 μmol, 8.16 μl | ClC(=O)OCC | C3H5ClO2
reactant | 2-[4-(4-fluorophenoxy)benzenesulfonyl]-5-(2-piperidin-1-ylethoxy)-1,2,3,4-tetra-hydroisoquinoline-1-carboxylic acid | 68.5 μmol, 38 mg | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N2C(C3=CC=CC(=C3CC2)OCCN2CCCCC2)C(=O)O)C=C1 | C29H31FN2O6S
reactant | N-methylmorpholine | 151 μmol, 16.6 μl | CN1CCOCC1 | C5H11NO
reactant | O-trimethylsilylhydroxylamine | 274 μmol, 37.2 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[4-(4-Fluorophenoxy)benzenesulfonyl]-5-(2-piperidin-1-ylethoxy)-1,2,3,4-tetra-hydroisoquinoline-1-carboxylic acid hydroxyamide | Yield 46% | ONC(=O)C1N(CCC2=C(C=CC=C12)OCCN1CCCCC1)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C29H32FN3O6S
